US04681883
5-[3-(Piperidinomethyl)phenoxy]pentanenitrile (1.73 g was dissolved in chloroform (20 ml). This solution was cooled to 0° C., which was followed by the addition of methanol (0.81 g). Dry hydrogen chloride gas was bubbled into the solution for 3 hours, which was then stored at 0° C. overnight. Chloroform was removed under reduced pressure to leave as an oily residue methyl 5-[3-(piperidinomethyl)phenoxy]pentaneimidate hydrochloride (1.3 g) which was not isolated. This was taken up in ethanol (20 ml) followed by the addition of orthophenylenediamine (0.41 g) and stirred at room temperature for 2 hours. Ethanol was removed under reduced pressure to leave an oily residue which was taken up in water, neutralised with potassium carbonate and extracted into chloroform (3×50 ml) and dried over magnesium sulphate, filtered, evaporated to low volume under reduced pressure and subjected to medium pressure liquid chromatography (ethyl acetate) to afford the title compound as a solid, m.p. 130°-131° C. (recrystallised from ethyl acetate).

reactant | 5-[3-(Piperidinomethyl)phenoxy]pentanenitrile | N1(CCCCC1)CC=1C=C(OCCCCC#N)C=CC1 | C17H24N2O
reactant | methanol | 0.81 g | CO | CH4O
reactant | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | methyl 5-[3-(piperidinomethyl)phenoxy]pentaneimidate hydrochloride | 1.3 g | Cl.N1(CCCCC1)CC=1C=C(OCCCCC(OC)=N)C=CC1 | InChI=1S/C18H28N2O2.ClH/c1-21-18(19)10-3-6-13-22-17-9-7-8-16(14-17)15-20-11-4-2-5-12-20;/h7-9,14,19H,2-6,10-13,15H2,1H3;1H
